US09169261B2
To a solution of 1-(4-fluorophenyl)-1H-pyrazole-3-carboxylic acid (0.04 g, 0.19 mmol, 1.5 eq) in 1 mL of DCM was added (S)-1-(8-methylpyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-amine (0.036 g, 0.13 mmol, 1 eq), propylphosphonic anhydride (0.3 mL, 0.47 mmol, 2.5 eq), and N-methylmorpholine (0.15 mL, 1.36 mmol, 10.5 eq). The reaction mixture was stirred at room temperature for 1 h then quenched with H2O and extracted with ethyl acetate. The combined organic layers were concentrated and purified by HPLC to afford (S)-1-(4-fluorophenyl)-N-(1-(8-methylpyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)-1H-pyrazole-3-carboxamide (0.030 g, 0.074 mmol, 57%). 1H NMR (400 MHz, CDCCl3) δ 7.91 (d, J=7.3 Hz, 1 H), 7.82 (s, 1 H), 7.68 (dd, J=4.4, 8.8 Hz, 2 H), 7.33 (d, J=4.8 Hz, 1 H), 7.19 (t, J=8.8 Hz, 3 H), 7.00 (m, 2 H), 6.50 (s, 1 H), 4.75 (s, 1 H), 3.90-3.56 (m, 4 H), 2.57 (s, 3 H), 2.42-2.38 (m, 1 H), 2.02-1.80 (m, 1 H); MS: (ES) m/z calculated for C22H21FN6O[M+H]+ 405.2, found 405.

reactant | 1-(4-fluorophenyl)-1H-pyrazole-3-carboxylic acid | 0.19 mmol, 0.04 g, 1.5 eq | FC1=CC=C(C=C1)N1N=C(C=C1)C(=O)O | C10H7FN2O2
reactant | (S)-1-(8-methylpyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-amine | 0.13 mmol, 0.036 g, 1 eq | CC=1C=CN2C1C(=NC=C2)N2C[C@H](CC2)N | C12H16N4
reactant | propylphosphonic anhydride | 0.47 mmol, 0.3 mL, 2.5 eq | CCCP(=O)=O | C3H7O2P
reactant | N-methylmorpholine | 1.36 mmol, 0.15 mL, 10.5 eq | CN1CCOCC1 | C5H11NO
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-(4-fluorophenyl)-N-(1-(8-methylpyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)-1H-pyrazole-3-carboxamide | 0.074 mmol, 0.030 g, 57% | FC1=CC=C(C=C1)N1N=C(C=C1)C(=O)N[C@@H]1CN(CC1)C=1C=2N(C=CN1)C=CC2C | C22H21FN6O
